US07368578B2
A mixture of ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate (2.00 g), benzyl bromide (0.97 g) potassium carbonate (0.53 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1, v/v) to give ethyl 1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (1.51 g, yield 64%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 127-128° C.

reactant | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate | 2.00 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)O | C29H27N3O7
reactant | benzyl bromide | 0.97 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate | 1.51 g, yield 64% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCC1=CC=CC=C1 | C36H33N3O7
